US07923456B2
Step 1: 5-Fluoro-2-(2-fluoro-4-iodo-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester
To a solution of 5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester (2.4 g, 6.1 mmol) in dichloromethane (15 mL) at 0° C. was added ICl (2.0 g, 12.2 mmol). The mixture was stirred at 0° C. for 0.5 hour, then quenched with water, washed with a saturated solution of sodium sulphite followed by brine, dried (Na2SO4), filtered and evaporated in vacuo to afford the title compound as a brown solid (2.7 g, 98%). LCMS (method B): RT=3.81 min, [M+H]+=448.

reactant | 5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester | 6.1 mmol, 2.4 g | COC(C1=C(N=C(C(=C1)F)CNC=O)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C18H21F2N3O3Si
reactant | ICl | 12.2 mmol, 2.0 g | ICl | ClI
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 5-Fluoro-2-(2-fluoro-4-iodo-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester | 2.7 g, 98% | COC(C1=C(N=C(C(=C1)F)CNC=O)NC1=C(C=C(C=C1)I)F)=O | C15H12F2IN3O3
